US06610707B1
Benzyl 4-(3-[(2S)-1-(1H-benzo[d]imidazol-2-ylsulfonyl)-2-piperidyl]-1,2,4-oxadiazol-5-ylmethoxy)-1-piperidinecarboxylate
The title compound was prepared by a similar method to Example 1 from benzyl 4-(3-[(2S)-2-piperidyl]-1,2,4-oxadiazol-5-ylmethoxy)-1-piperidinecarboxylate [see Preparation 95] and 1H-benzo[d]imidazol-2-sulfonyl chloride [see Preparation 8]. The crude product was purified by column chromatography on silica gel eluting with a solvent gradient of 80:20 changing to 0:100, by volume, hexane:ethyl acetate, in 5% increments, to afford benzyl 4-(3-[(2S)-1-(1H-benzo[d]imidazol-2-ylsulfonyl)-2-piperidyl]-1,2,4-oxadiazol-5-ylmethoxy)-1-piperidinecarboxylate as a clear oil.

reactant | benzyl 4-(3-[(2S)-2-piperidyl]-1,2,4-oxadiazol-5-ylmethoxy)-1-piperidinecarboxylate | N1[C@@H](CCCC1)C1=NOC(=N1)COC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C21H28N4O4
reactant | 1H-benzo[d]imidazol-2-sulfonyl chloride | N1C(=NC2=C1C=CC=C2)S(=O)(=O)Cl | C7H5ClN2O2S
product | benzyl 4-(3-[(2S)-1-(1H-benzo[d]imidazol-2-ylsulfonyl)-2-piperidyl]-1,2,4-oxadiazol-5-ylmethoxy)-1-piperidinecarboxylate | N1C(=NC2=C1C=CC=C2)S(=O)(=O)N2[C@@H](CCCC2)C2=NOC(=N2)COC2CCN(CC2)C(=O)OCC2=CC=CC=C2 | C28H32N6O6S
